US07732435B2
7-Benzyloxy-3-(4-chlorophenyl)-2-isopropyl-8-methoxy-chromen-4-one
To a solution of 7-benzyloxy-3-(4-chlorophenyl)-8-hydroxy-2-isopropyl-chromen-4-one (3.01 g, 7.15 mmol) and iodomethane (1.17 g, 8.22 mmol) in N,N-dimethylformamide (60 ml) is added K2CO3 (1.98 g, 14.3 mmol). The reaction mixture is stirred at room temperature for 72 h. The mixture is diluted with ethyl acetate and water, and the organic phase is washed with sodium thiosulfate solution and brine, dried (MgSO4) and concentrated in vacuo. The resulting off-white solid residue is triturated with ethyl acetate to afford the title compound as a white solid.

reactant | 7-benzyloxy-3-(4-chlorophenyl)-8-hydroxy-2-isopropyl-chromen-4-one | 7.15 mmol, 3.01 g | C(C1=CC=CC=C1)OC1=CC=C2C(C(=C(OC2=C1O)C(C)C)C1=CC=C(C=C1)Cl)=O | C25H21ClO4
reactant | iodomethane | 8.22 mmol, 1.17 g | IC | CH3I
reactant | K2CO3 | 14.3 mmol, 1.98 g | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 7-Benzyloxy-3-(4-chlorophenyl)-2-isopropyl-8-methoxy-chromen-4-one | C(C1=CC=CC=C1)OC1=CC=C2C(C(=C(OC2=C1OC)C(C)C)C1=CC=C(C=C1)Cl)=O | C26H23ClO4
